US05001160
In a 5-L round bottomed flask equipped with a reflux condenser and an overhead stirrer was placed a solution of 276 3 g (1.35 mole) of 1-cyclobutyl-1-hydroxy-1-phenyl-2-propanone in 3 L of tetrahydrofuran. To this solution was added 903 g (1.82 mole) of pyrrolidone hydrotribromide. The mixture was refluxed for 24 hours and allowed to cool to room temperature. It was partitioned between 4 L of water and 4 L of ether. The organic layer was separated, washed three times with a saturated solution of sodium bicarbonate and once with brine. It was dried over anhydrous magnesium sulfate and the solvent removed. Crystallization of the residue from hexane gave 195 g of 3-bromo-1-cyclobutyl-1-hydroxy-1-phenyl -2-propanone, mp 79°-80° C. NMR (CDCl3) 1.8-2.2 (m, 6 H), 3.4-3.6 (m, 1 H), 3.9-4.1 (m, 2 H), 7.2-7.7 (m, 5 H); IR (KBr) 3471, 2946, 1725, 627 cm-1.

reactant | 1-cyclobutyl-1-hydroxy-1-phenyl-2-propanone | C1(CCC1)C(C(C)=O)(C1=CC=CC=C1)O | C13H16O2
reactant | pyrrolidone hydrotribromide | 1.82 mole, 903 g | C1CC(=O)NC1.Br[Br-]Br
solvent | tetrahydrofuran | 3 L | O1CCCC1 | C4H8O
product | 3-bromo-1-cyclobutyl-1-hydroxy-1-phenyl -2-propanone | 195 g | BrCC(C(C1=CC=CC=C1)(O)C1CCC1)=O | C13H15BrO2
